US08110585B2
(2-ethyl-2H-indazol-4-yl)methanol
To a suspension of lithium aluminum hydride (1.09 g, 28.7 mmol) in tetrahydrofuran (60 mL) was added a solution of methyl 5-bromo-2-ethyl-2H-indazole-4-carboxylate (2.03 g, 7.17 mmol) in tetrahydrofuran (15 mL) under nitrogen atmosphere at 0° C., and the mixture was stirred at room temperature for 50 hr. Sodium sulfate decahydrate (10 g) was added under ice-cooling, and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure and purified by silica gel column chromatography (ethyl acetate/hexane=25/75→60/40) to give the title compound (1.14 g, yield 90%).

reactant | lithium aluminum hydride | 28.7 mmol, 1.09 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 5-bromo-2-ethyl-2H-indazole-4-carboxylate | 7.17 mmol, 2.03 g | BrC1=C(C2=CN(N=C2C=C1)CC)C(=O)OC | C11H11BrN2O2
reactant | Sodium sulfate decahydrate | 10 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (2-ethyl-2H-indazol-4-yl)methanol | 1.14 g, yield 90% | C(C)N1N=C2C=CC=C(C2=C1)CO | C10H12N2O
